US06515003B1
3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-4-methoxybenzylidene-2,4-imidazolidinedione
A mixture of 2,4-imidazolidinedione (101 mg, 1.0 mmol), pyrrolidine (0.04 mL, 0.5 mmol) and 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4-methoxy-benzaldehyde (336 mg, 1.0 mmol) in ethanol (15 mL) was heated under reflux for 24 hours, allowed to cool to room temperature and extracted with ethyl acetate (2×100 mL). The organic extracts were washed with saturated aqueous NH4Cl (60 mL), saturated NH4Cl (70 mL), saturated aqueous NaCl (60 mL), dried over MgSO4 and filtered. Removal of the solvent under reduced pressure gave a yellow solid that was purified by column chromatography, using a Biotage 40S cartridge, eluting with ethyl acetate/hexane (3:7). The title compound was isolated as a yellow solid (270 mg, 65%).

reactant | 2,4-imidazolidinedione | 1.0 mmol, 101 mg | N1C(NC(C1)=O)=O | C3H4N2O2
reactant | pyrrolidine | 0.5 mmol, 0.04 mL | N1CCCC1 | C4H9N
reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4-methoxy-benzaldehyde | 1.0 mmol, 336 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=O)C=CC1OC | C23H28O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-4-methoxybenzylidene-2,4-imidazolidinedione | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=C2C(NC(N2)=O)=O)C=CC1OC | C26H30N2O3
